US07732603B2
To a solution of the title C compound, methyl 3-[5-formyl-imidazol-1-yl]-3-(4-cyano-phenyl)-propionate (0.22 g, 0.78 mmol) in DCE (5 mL) is added benzylamine (0.100 mL, 0.92 mmol) followed by sodium triacetoxyborohydride (0.49 g, 2.3 mmol). The reaction mixture is stirred at RT for 16 h, then partitioned between EtOAc and saturated aqueous sodium bicarbonate, and the organic solution is washed with brine, dried (anhydrous sodium sulfate) and concentrated. The residue is subjected to flash chromatography (silica) eluting with EtOAc:MeOH:NH4OH (90:10:1) to give 4-(8-benzyl-7-oxo-6,7,8,9-tetrahydro-5H-imidazo[1,5-a][1,4]diazepin-5-yl)-benzonitrile: m.p. 65° C.; e/z (ES) 343 (M+1, 100%).

reactant | methyl 3-[5-formyl-imidazol-1-yl]-3-(4-cyano-phenyl)-propionate | 0.78 mmol, 0.22 g | C(=O)C1=CN=CN1C(CC(=O)OC)C1=CC=C(C=C1)C#N | C15H13N3O3
reactant | benzylamine | 0.92 mmol, 0.100 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 2.3 mmol, 0.49 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 4-(8-benzyl-7-oxo-6,7,8,9-tetrahydro-5H-imidazo[1,5-a][1,4]diazepin-5-yl)-benzonitrile | C(C1=CC=CC=C1)N1CC=2N(C(CC1=O)C1=CC=C(C#N)C=C1)C=NC2 | C21H18N4O
